US08309580B2
(5) 4-({cyclohexyl[2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophen-3-yl]methyl}amino)benzoic acid
To a mixture of 4-{4-[chloro(cyclohexyl)methyl]-5-ethylthiophen-2-yl}tetrahydro-2H-pyran (725 mg) synthesized above, methyl 4-aminobenzoate (671 mg), sodium iodide (666 mg) and N,N-dimethylacetamide (15 mL) was added sodium carbonate (471 mg), and the mixture was stirred overnight at 100° C. under an argon atmosphere. To the reaction mixture was added 1N hydrochloric acid to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=3:7, volume ratio) to give a white solid. To a mixture of the obtained solid, tetrahydrofuran (10 mL) and ethanol (10 mL) was added 1N aqueous sodium hydroxide solution (10 mL), and the mixture was stirred at 50° C. for 5 hr, and concentrated under reduced pressure. The residue was dissolved in water (20 mL), and 1N hydrochloric acid (10 mL) was added at 0° C. The resulting precipitate was collected by filtration to give the title compound (710 mg, 75%) as a white solid.

reactant | 4-{4-[chloro(cyclohexyl)methyl]-5-ethylthiophen-2-yl}tetrahydro-2H-pyran | 725 mg | ClC(C=1C=C(SC1CC)C1CCOCC1)C1CCCCC1 | C18H27ClOS
reactant | methyl 4-aminobenzoate | 671 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | sodium iodide | 666 mg | [I-].[Na+]
reactant | sodium carbonate | 471 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 4-({cyclohexyl[2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophen-3-yl]methyl}amino)benzoic acid | 710 mg, 75% | C1(CCCCC1)C(C1=C(SC(=C1)C1CCOCC1)CC)NC1=CC=C(C(=O)O)C=C1 | C25H33NO3S
